US09056873B2
Step B: 6-((3R,4R)-3-Aminotetrahydro-2H-pyran-4-ylamino)-4-(3-cyclopropylisothiazol-5-yl)-7-fluoro-1H-pyrrolo[3,4-c]pyridin-3(2H)-one
To a stirred solution of tert-butyl 6-((3R,4R)-3-(tert-butoxycarbonylamino)tetrahydro-2H-pyran-4-ylamino)-4-(3-cyclopropylisothiazol-5-yl)-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate (58.9 mg, 0.100 mmol) in MeOH (2.0 mL) was added 4N HCl/dioxane (2.0 mL, 8.00 mmol). The reaction mixture was heated to 60° C. for 1 hour and then concentrated in vacuo. The residue was triturated with EtOAc and filtered. The filter cake was washed with EtOAc to give a yellow solid, which was suspended into EtOH. The mixture was stirred at 80° C. for 30 minutes and then cooled to room temperature. The resulting precipitate was collected by filtration and washed with EtOH to give a hydrochloride salt of the title compound as an off-white solid (26.5 mg, 62%). 1H NMR (500 MHz, DMSO-d6) δ ppm 0.82-0.92 (m, 2H), 0.95-1.06 (m, 2H), 1.70-1.85 (m, 1H), 2.07-2.17 (m, 1H), 2.18-2.26 (m, 1H), 3.56-3.66 (m, 1H), 3.72-3.84 (m, 2H), 3.95-4.08 (m, 2H), 4.26-4.36 (m, 1H), 4.41-4.53 (m, 2H), 7.46 (d, J=4.88 Hz, 1H), 8.02 (br s, 3H), 8.68 (s, 1H), 8.72 (s, 1H). ESI-MS m/z [M+H]+ calc'd for C18H20FN5O2S, 390. found, 390.

reactant | tert-butyl 6-((3R,4R)-3-(tert-butoxycarbonylamino)tetrahydro-2H-pyran-4-ylamino)-4-(3-cyclopropylisothiazol-5-yl)-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | 0.100 mmol, 58.9 mg | C(C)(C)(C)OC(=O)N[C@H]1COCC[C@H]1NC1=C(C2=C(C(=N1)C1=CC(=NS1)C1CC1)C(N(C2)C(=O)OC(C)(C)C)=O)F | C28H36FN5O6S
reactant | HCl dioxane | 8.00 mmol, 4N, 2.0 mL | Cl.O1CCOCC1
reactant | EtOH | CCO | C2H6O
solvent | MeOH | 2.0 mL | CO | CH4O
product | 6-((3R,4R)-3-Aminotetrahydro-2H-pyran-4-ylamino)-4-(3-cyclopropylisothiazol-5-yl)-7-fluoro-1H-pyrrolo[3,4-c]pyridin-3(2H)-one | 26.5 mg, 62% | N[C@H]1COCC[C@H]1NC1=C(C2=C(C(=N1)C1=CC(=NS1)C1CC1)C(NC2)=O)F | C18H20FN5O2S
